US06831106B1
b) Ethyl 3′[3,4-bis-(1-phenylmethanoyloxymethyl)benzyloxy]-2-tert-butylbiphenyl-4-carboxylate
In a manner similar to that of Example 1(i), by reaction of 5.3 g (17.7 mmol) of methyl 3′-hydroxy-2-tert-butylbiphenyl-4-carboxylate with 8.46 g (19 mmol) of 3,4-bis(benzoyloxymethyl)benzyl bromide and 2.54 g (18 mmol) of potassium carbonate, the desired product is obtained in the form of a yellow oil (m=11 g; Y=94%).

reactant | methyl 3′-hydroxy-2-tert-butylbiphenyl-4-carboxylate | 17.7 mmol, 5.3 g | OC=1C=C(C=CC1)C1=C(C=C(C=C1)C(=O)OC)C(C)(C)C | C18H20O3
reactant | 3,4-bis(benzoyloxymethyl)benzyl bromide | 19 mmol, 8.46 g | C(C1=CC=CC=C1)(=O)OCC=1C=C(CBr)C=CC1COC(C1=CC=CC=C1)=O | C23H19BrO4
reactant | potassium carbonate | 18 mmol, 2.54 g | C([O-])([O-])=O.[K+].[K+]
product | Ethyl 3′[3,4-bis-(1-phenylmethanoyloxymethyl)benzyloxy]-2-tert-butylbiphenyl-4-carboxylate | C1(=CC=CC=C1)C(=O)OCC=1C=C(COC=2C=C(C=CC2)C2=C(C=C(C=C2)C(=O)OCC)C(C)(C)C)C=CC1COC(=O)C1=CC=CC=C1 | C42H40O7
